data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_298203_0,[C:1](\[N:3]([H:10])[H:11])([O:4][O:5][H:7])=[N:6]\[N:2]([H:8])[H:9]>>[C:1]1([N:3]([H:10])[H:11])([N:6]([N:2]([H:8])[H:9])[H:7])[O:4][O:5]1,28.250677500012387
MR_429506_1,[C:1]([C:4]([N:2](/[C:3]([N:7]([H:14])[H:15])=[N:9]\[N:6]([H:12])[H:13])[N:5]([H:10])[H:11])=[C:8]([H:19])[H:20])([H:16])([H:17])[H:18]>>[C:1]([C:4](=[C:8]([H:19])[H:20])[N:9](/[C:3](=[N:2]\[N:5]([H:10])[H:11])[N:7]([H:14])[H:15])[N:6]([H:12])[H:13])([H:16])([H:17])[H:18],48.78247750000199
MR_536618_0,[C:1](/[C:3]([C:2]([H:12])([H:13])[H:14])=[N:7]/[H:9])([N:6][N:5][O:4][H:8])([H:10])[H:11]>>[C:1](=[N:6][N:5](/[C:3]([C:2]([H:12])([H:13])[H:14])=[N:7]/[H:9])[O:4][H:8])([H:10])[H:11],72.69273749998675
MR_98080_1,[C:1](/[C:3](=[C:2]([C:4](=[N:7]\[H:10])/[H:11])\[O:5][H:8])[O:6][H:9])([H:12])([H:13])[H:14]>>[C:1]([C@:3]1([O:6][H:9])[C:2]([O:5][H:8])=[C:4]([H:11])[N:7]1[H:10])([H:12])([H:13])[H:14],56.33255750002292
MR_465060_0,[C:1](/[N:3]=[C:6](/[C:4]1([O:8][H:11])[C:5]([C:2]([H:16])([H:17])[H:18])([O:7][H:10])[O:9]1)[H:12])([H:13])([H:14])[H:15]>>[C:1]([N:3](/[C:6](=[C:4](\[C:5]([C:2]([H:16])([H:17])[H:18])=[O:9])[O:8][H:11])[H:12])[O:7][H:10])([H:13])([H:14])[H:15],62.047200000005205
MR_370696_0,[C:1]([C:3]([O:5][C:2]([H:12])([H:13])[H:14])=[O:8])([O:4][O:6][H:9])([O:7][H:10])[H:11]>>[C:1]([C:3]([O:4][O:6][H:9])=[O:8])([O:5][C:2]([H:12])([H:13])[H:14])([O:7][H:10])[H:11],59.90930750001681
MR_222784_0,[C:1]1([C:4]([H:16])([H:17])[H:18])([C:5]([H:19])([H:20])[H:21])[C:3]([H:14])([H:15])[C:2]([C:6]([H:22])([H:23])[H:24])([C:7]([H:25])([H:26])[H:27])[C:8]1([N:9]([H:12])[H:13])[O:10][H:11]>>[C:1]([C:3]([C:2]([C:6]([H:22])([H:23])[H:24])([C:7]([H:25])([H:26])[H:27])[C:8]([N:9]([H:12])[H:13])=[O:10])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])([C:5]([H:19])([H:20])[H:21])[H:11],56.64003249999567
MR_27642_2,[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:4](=[C:5](\[N:3]([H:9])[H:10])[H:12])[H:11])([O:6][H:7])[H:8]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:4](\[C:5]([N:3]([H:9])[H:10])([O:6][H:7])[H:12])[H:11])[H:8],58.75659000003793
MR_61605_0,[C:1]([C:4]([C:2]([C:3]([H:15])([H:16])[H:17])([H:13])[H:14])=[O:7])([N:5]([H:9])[H:10])([N:6]([H:11])[H:12])[H:8]>>[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])([H:13])[H:14])([C:4](=[O:7])[H:8])([N:5]([H:9])[H:10])[N:6]([H:11])[H:12],38.28565750000166
MR_584146_1,[C:1](/[C:6](=[N:4]\[H:11])[C:7]([C:2]([H:15])([H:16])[H:17])([C:3]([H:18])([H:19])[H:20])[C:5](=[C:8]([H:21])[H:22])[O:9][H:10])([H:12])([H:13])[H:14]>>[C:1]([C:6]([N:4]([C:5](=[C:8]([H:21])[H:22])[O:9][H:10])[H:11])=[C:7]([C:2]([H:15])([H:16])[H:17])[C:3]([H:18])([H:19])[H:20])([H:12])([H:13])[H:14],71.60528000002145
MR_616637_0,[C:1]([N:6]([H:11])[H:12])([N:7]([H:13])[H:14])=[N:9][C:5]([C:3]([H:20])([H:21])[H:22])([N:4]([C:2]([H:17])([H:18])[H:19])[H:10])[N:8]([H:15])[H:16]>>[C:1]([N:6]([H:11])[H:12])([N:7]([H:13])[H:14])([N:8]([H:15])[H:16])/[N:9]=[C:5](/[C:3]([H:20])([H:21])[H:22])[N:4]([C:2]([H:17])([H:18])[H:19])[H:10],60.04108250000513
MR_122335_1,[C:1]([O:4][H:6])(/[N:5]=[C:3](\[C:2]([H:10])([H:11])[H:12])[H:9])([H:7])[H:8]>>[C:1](=[N:5][C:3]([C:2]([H:10])([H:11])[H:12])([O:4][H:6])[H:9])([H:7])[H:8],62.134422499999005
MR_347959_0,[C:1]1([H:10])([H:11])/[C:4](=[N:7]\[H:9])[N:3]([H:8])[C:5]([C:2]([H:13])([H:14])[H:15])=[C:6]1[H:12]>>[C:1]1([H:10])([H:11])/[C:4](=[N:7]\[H:9])[C:6]1(/[C:5]([C:2]([H:13])([H:14])[H:15])=[N:3]/[H:8])[H:12],68.95283750001241
MR_202624_2,[C:1]([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])([C:5]([H:19])([H:20])[H:21])[C:6]1([O:8][H:11])[C:2]([O:9][H:10])([H:12])[C:7]1([H:22])[H:23]>>[C:1]([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])([C:5]([H:19])([H:20])[H:21])[C:6]([C:2]([O:8][H:11])([O:9][H:10])[H:12])=[C:7]([H:22])[H:23],63.37310750001052
MR_174491_0,[C:1]1([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[C:2]([H:10])([H:11])[C:6]([C:5]([H:18])([H:19])[H:20])=[C:7]([H:9])[O:8]1>>[C:1]1([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[C:2]([H:10])([H:11])[C:6]1([C:5]([H:18])([H:19])[H:20])[C:7](=[O:8])[H:9],49.003984999977774
MR_638223_0,[C:1]([C:3]([H:14])([H:15])[H:16])([N:4]([O:6][H:9])[O:7][H:8])([O:5][C:2]([H:11])([H:12])[H:13])[H:10]>>[C:1]([C:3]([H:14])([H:15])[H:16])([N:4]([O:5][C:2]([H:11])([H:12])[H:13])[O:7][H:8])([O:6][H:9])[H:10],66.81996500001134
MR_298766_0,[C:1]([N:4]([C:2]([H:14])([H:15])[H:16])[H:10])(/[C:5]([O:7][H:9])=[N:8]\[C:3]([H:17])([H:18])[H:19])([N:6]([H:12])[H:13])[H:11]>>[C:1]1([N:6]([H:12])[H:13])([H:11])[C:5]([N:4]([C:2]([H:14])([H:15])[H:16])[H:10])([O:7][H:9])[N:8]1[C:3]([H:17])([H:18])[H:19],59.25921750001734
MR_294309_1,[C:1]([C:4]([N:2]([N:5]([H:9])[H:10])[H:8])=[C:3]([N:6]([H:11])[H:12])[N:7]([H:13])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:4]([N:2]([N:5]([H:9])[H:10])[H:13])(/[C:3]([N:6]([H:11])[H:12])=[N:7]/[H:14])[H:8])([H:15])([H:16])[H:17],62.08485000001716
